US08110687B2
To a solution of tert-butyl(dimethyl){[3-nitro-5-(trifluoromethyl)benzyl]oxy}-silane (3.70 g, 11.00 mmol) in EtOAc (100 mL) was added Pd (300 mg, 10% on carbon). The reaction mixture was allowed to stir at rt overnight under an atmosphere of hydrogen. The reaction mixture was filtered through a pad of Celite and washed with EtOAc. The solvents were evaporated to give 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-(trifluoromethyl)aniline (3.32 g, 95. LCMS: (FA) ES+ 306.2.

reactant | tert-butyl(dimethyl){[3-nitro-5-(trifluoromethyl)benzyl]oxy}-silane | 11.00 mmol, 3.70 g | C(C)(C)(C)[Si](OCC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-])(C)C | C14H20F3NO3Si
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd | 300 mg | [Pd] | Pd
product | 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-(trifluoromethyl)aniline | [Si](C)(C)(C(C)(C)C)OCC=1C=C(N)C=C(C1)C(F)(F)F | C14H22F3NOSi
